US05288896
N-[1-[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]ethyl]-N-hydroxy-N'-methylthiourea
To a solution of 0.500 g (0.0016 mole) of 2,6-bis(1,1-dimethylethyl)-4-[1-(hydroxyamino)ethyl]phenol acetate is added 0.128 g (0.00175) of methyl isothiocyanate. The reaction mixture is stirred at room temperature for 18 hours and evaporated to near dryness. The residue is washed with Et2O and there is obtained 0.300 g (55%) white solid, m.p. 175°-175.5° C.

reactant | 2,6-bis(1,1-dimethylethyl)-4-[1-(hydroxyamino)ethyl]phenol acetate | 0.0016 mole, 0.500 g | C(C)(=O)OC1=C(C=C(C=C1C(C)(C)C)C(C)NO)C(C)(C)C | C18H29NO3
reactant | methyl isothiocyanate | 0.128 g | CN=C=S | C2H3NS
product | N-[1-[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]ethyl]-N-hydroxy-N'-methylthiourea | 0.300 g, 55% | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C)N(C(=S)NC)O | C18H30N2O2S
